US08048906B2
3-chlorotyrosine* (Aldrich 51,244-3)(113.5 g, 526 mmol) was added to a roundbottom flask equipped with a mechanical stirrer and temperature probe. 3-chlorotyrosine was dissolved in a solution of dioxane:water 2:1 (500 mL). Sodium carbonate (55.8 g, 526 mmol) was added, and the solution cooled to 0° C. in an ice bath. Fmoc-OSu (177.5 g, 526 mmol) was dissolved in dioxane (300 mL) and added in one portion to the solution at 0° C. The reaction was stirred for 5 hours at 0° C. The reaction was allowed to warm to room temperature overnight. The reaction was concentrated until a volume of 100 mL was achieved. 0.5 M potassium hydrogensulfate was added until the pH was 3. The pH was determined using pH paper (0-14) that was placed directly into the mixture. The pH was determined by comparison to the chart included with the pH paper. The solution was extracted with ethyl acetate (3×500 mL). The organic layers were combined and washed with water (500 mL) and brine (500 mL). The organic layer was then washed over sodium sulfate and concentrated to a constant eight (under vacuum) to give Fmoc-3-chlorotyrosine as a light beige solid. (204 g, 95% purity by area)

reactant | 3-chlorotyrosine | ClC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H10ClNO3
reactant | Sodium carbonate | 526 mmol, 55.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Fmoc-OSu | 526 mmol, 177.5 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)ON1C(=O)CCC1=O | C19H15NO5
solvent | dioxane water | 500 mL | O1CCOCC1.O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | Fmoc-3-chlorotyrosine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC(=C(C=C1)O)Cl)C(=O)O | C24H20ClNO5
